* c:\fossee\esim\library\subcircuitlibrary\cordic_subcircuit\cordic_subcircuit.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ net-_u1-pad39_ net-_u1-pad40_ net-_u1-pad41_ net-_u1-pad42_ net-_u1-pad43_ net-_u1-pad44_ net-_u1-pad45_ net-_u1-pad46_ net-_u1-pad47_ net-_u1-pad48_ net-_u1-pad49_ net-_u1-pad50_ net-_u1-pad51_ net-_u1-pad52_ cordic
* u5  net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u2-pad17_ net-_u2-pad18_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ adc_bridge_8
* u4  net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ adc_bridge_8
* u3  net-_u2-pad1_ net-_u2-pad2_ net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u6  net-_u2-pad19_ net-_u1-pad19_ adc_bridge_1
* u7  net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u2-pad20_ net-_u2-pad21_ net-_u2-pad22_ net-_u2-pad23_ net-_u2-pad24_ net-_u2-pad25_ net-_u2-pad26_ net-_u12-pad1_ dac_bridge_8
* u8  net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ net-_u12-pad9_ dac_bridge_8
* u9  net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ net-_u1-pad39_ net-_u1-pad40_ net-_u1-pad41_ net-_u1-pad42_ net-_u1-pad43_ net-_u12-pad10_ net-_u12-pad11_ net-_u12-pad12_ net-_u12-pad13_ net-_u12-pad14_ net-_u12-pad15_ net-_u12-pad16_ net-_u12-pad17_ dac_bridge_8
* u10  net-_u1-pad44_ net-_u1-pad45_ net-_u1-pad46_ net-_u1-pad47_ net-_u1-pad48_ net-_u1-pad49_ net-_u1-pad50_ net-_u1-pad51_ net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ dac_bridge_8
* u11  net-_u1-pad52_ net-_u11-pad2_ dac_bridge_1
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u2-pad17_ net-_u2-pad18_ net-_u2-pad19_ net-_u2-pad20_ net-_u2-pad21_ net-_u2-pad22_ net-_u2-pad23_ net-_u2-pad24_ net-_u2-pad25_ net-_u2-pad26_ port
* u12  net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ net-_u12-pad9_ net-_u12-pad10_ net-_u12-pad11_ net-_u12-pad12_ net-_u12-pad13_ net-_u12-pad14_ net-_u12-pad15_ net-_u12-pad16_ net-_u12-pad17_ net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ net-_u11-pad2_ port
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ ] [net-_u1-pad19_ ] [net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ ] [net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ net-_u1-pad39_ net-_u1-pad40_ net-_u1-pad41_ net-_u1-pad42_ net-_u1-pad43_ net-_u1-pad44_ net-_u1-pad45_ net-_u1-pad46_ net-_u1-pad47_ net-_u1-pad48_ net-_u1-pad49_ net-_u1-pad50_ net-_u1-pad51_ ] [net-_u1-pad52_ ] u1
a2 [net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u2-pad17_ net-_u2-pad18_ ] [net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ ] u5
a3 [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] u4
a4 [net-_u2-pad1_ net-_u2-pad2_ ] [net-_u1-pad1_ net-_u1-pad2_ ] u3
a5 [net-_u2-pad19_ ] [net-_u1-pad19_ ] u6
a6 [net-_u1-pad20_ net-_u1-pad21_ net-_u1-pad22_ net-_u1-pad23_ net-_u1-pad24_ net-_u1-pad25_ net-_u1-pad26_ net-_u1-pad27_ ] [net-_u2-pad20_ net-_u2-pad21_ net-_u2-pad22_ net-_u2-pad23_ net-_u2-pad24_ net-_u2-pad25_ net-_u2-pad26_ net-_u12-pad1_ ] u7
a7 [net-_u1-pad28_ net-_u1-pad29_ net-_u1-pad30_ net-_u1-pad31_ net-_u1-pad32_ net-_u1-pad33_ net-_u1-pad34_ net-_u1-pad35_ ] [net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ net-_u12-pad9_ ] u8
a8 [net-_u1-pad36_ net-_u1-pad37_ net-_u1-pad38_ net-_u1-pad39_ net-_u1-pad40_ net-_u1-pad41_ net-_u1-pad42_ net-_u1-pad43_ ] [net-_u12-pad10_ net-_u12-pad11_ net-_u12-pad12_ net-_u12-pad13_ net-_u12-pad14_ net-_u12-pad15_ net-_u12-pad16_ net-_u12-pad17_ ] u9
a9 [net-_u1-pad44_ net-_u1-pad45_ net-_u1-pad46_ net-_u1-pad47_ net-_u1-pad48_ net-_u1-pad49_ net-_u1-pad50_ net-_u1-pad51_ ] [net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ ] u10
a10 [net-_u1-pad52_ ] [net-_u11-pad2_ ] u11
* Schematic Name:                             cordic, NgSpice Name: cordic
.model u1 cordic(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u10 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u11 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
